US06787541B1
2-Aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (Example 10)
A mixture of 2-[N-(3,4-dimethoxybenzyl)]aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (0.06 g, 0.15 mmol) and TFA (2 mL) was refluxed for 2 h, cooled, concentrated in vacuo to half its original volume, diluted with CH2Cl2 (50 mL), washed with saturated sodium bicarbonate solution (3×25 mL) then brine (25 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; heptane-EtOAc (3:1)] to give the title compound (40 mg, 100%) as a yellow solid.

reactant | 2-[N-(3,4-dimethoxybenzyl)]aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.15 mmol, 0.06 g | COC=1C=C(CNC=2N=C(C3=C(N2)C=CS3)C(=O)C=3SC=CC3)C=CC1OC | C20H17N3O3S2
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 40 mg, 100% | NC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C11H7N3OS2
